US07973039B2
Step d) Formation of [1-({[4-(4-fluorophenyl)piperazin-1-yl]sulfonyl}methyl)-3-(3-methyloxyphenyl)prop-2-yn-1-yl]hydroxyformamide
A solution of 1-(4-fluorophenyl)-4-{[2-(hydroxyamino)-4-(3-methoxyphenyl)but-3-yn-1-yl]sulfonyl}piperazine (349 mg; 0.81 mmol) and acetyl formate (prepared as described by Koller et al., 1983, above 8; 0.58 mL of a 1.39 M solution in THF; 0.81 mmol) was stirred at rt for 1 h. THF was removed under reduced pressure and replaced by MeOH. The solution was heated at 60° C. for 1 h and concentrated under reduced pressure. Purification of the crude by flash chromatography on silica (EtOAc:c-Hex 60:40 to 100:0) gave the title compound as an orange oil (90 mg, 24% yield). HPLC, Rt: 3.69 min (purity: 99.3%). LC/MS, M+(ESI): 462.3. 1H NMR (DMSO-d6) δ: 8.45 (brs, 0.4H), 8.13 (brs, 0.6H), 7.19 (m, 1H), 6.97-7.04 (m, 7H), 5.80 (brs, 0.4H), 5.25 (brs, 0.6H), 3.77 (s, 3H), 3.68 (brs, 1H), 3.44 (m, 6H), 3.14 (m, 4H).

reactant | 1-(4-fluorophenyl)-4-{[2-(hydroxyamino)-4-(3-methoxyphenyl)but-3-yn-1-yl]sulfonyl}piperazine | 0.81 mmol, 349 mg | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(C#CC1=CC(=CC=C1)OC)NO | C21H24FN3O4S
reactant | acetyl formate | C(=O)OC(C)=O | C3H4O3
solvent | THF | C1CCOC1 | C4H8O
product | [1-({[4-(4-fluorophenyl)piperazin-1-yl]sulfonyl}methyl)-3-(3-methyloxyphenyl)prop-2-yn-1-yl]hydroxyformamide | 90 mg, 24% yield | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(C#CC1=CC(=CC=C1)OC)N(C=O)O | C22H24FN3O5S
